2189-12-05 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2189-12-4**] 06:21 PM
 PARACENTESIS - At [**2189-12-4**] 11:00 PM
   draining ~50cc's
   - Hypotension responded shortly after starting Dexamethasone
   - UOP 20cc/hour after admission; BPs responded by that time and we
   monitored his response to treatment
   - Paracentesis labs obtained and suggestive of SBP
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-12-5**] 04:00 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-5**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 103 (93 - 136) bpm
   BP: 95/54(59) {76/40(47) - 101/81(71)} mmHg
   RR: 22 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
    CO/CI (Fick): (6.5 L/min) / (3.1 L/min/m2)
   SvO2: 59%
   Total In:
                                                                  2,572 mL
                                                                  2,328 mL
   PO:
   TF:
   IVF:
                                                                  2,572 mL
                                                                  2,037 mL
   Blood products:
                                                                    292 mL
   Total out:
                                                                    300 mL
                                                                    135 mL
   Urine:
                                                                    300 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,272 mL
                                                                  2,193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General: Alert and oriented; able to relate history in detail
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple
   Lungs: Decreased breath sounds a tthe right base with mild to moderate
   crackes at bases; no expiratory wheezing, no accessory muscle use
   CV: RRR, somewhat distant; JVD elevated
   Abdomen: Mildly protuberant, soft, non-tender
   GU: No foley
   Extremities: 3+ pitting edema
   Neuro: Wide based markedly abnormal and tentative gait
   Skin: Diffuse blancing maculopapular rash, coalescent over
   back/trunk/flank/lower abdomen; areas of ecchomoses noted right flank
   without hematoma. Bright red, erythematous rash in area of groin. Peni
   and foreskin without erythema or edema but 2 painless ulcerated lesions
   noted inner portion of foreskin.
   Labs / Radiology
   33 K/uL
   8.6 g/dL
   67 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   41 mg/dL
   112 mEq/L
   142 mEq/L
   26.9 %
   23.5 K/uL
        [image002.jpg]
                             [**2189-12-5**]  12:54 AM
                             [**2189-12-5**]  02:43 AM
   WBC
   20.5
   23.5
   Hct
   27.2
   26.9
   Plt
   28
   33
   Cr
   1.9
   Glucose
   67
   Other labs: PT / PTT / INR:16.7/49.1/1.5, ALT / AST:58/48, Alk Phos / T
   Bili:210/1.8, Amylase / Lipase:/21, Lactic Acid:1.1 mmol/L, Albumin:2.5
   g/dL, LDH:356 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Paracentesis results
   [**12-5**], [**12-4**] CXR
 Final read pending;
   [**12-4**] CT abdomen/pelvis
 Final read pending; cirrhosis with moderate
   ascites
   Assessment and Plan
   75 yo M hx CAD s/p recent NSTEMI, a. fib not on Coumadin, and recent
   hospitalization for SIRS now with pneumonia on CXR and hypotension.
   .
   # Right pleural effusion. Cannot rule out right lower quadrant
   pneumonia, likely nosocomial (MRSA/pseudomonal). Likely etiology for
   patient's shortness of breath, productive cough. Also consider CHF,
   aspiration;
   - Continue vancomycin, zosyn
   - Monitor fever curve
   - Check BNP
   - Obtain repeat CXR AM
   - Follow up final CXR read
   - Likely [**Female First Name (un) **] in am.
   .
   # Hypotension/Tachycardia/hypothermia: Patient hypotensive,
   tachycardic, hypothermic, concerning for signs of active infection.
   Currently calling this SIRS and possible seppsis.  Source likely to be
   pulmonary as above, although cannot exclude GI, GU (UA negative in ED),
   skin (patient's rash unlikely cellulitis), c diff (current WBC may
   reflect leukocytosis).  Other potential etiologies would be
   endocrinopathy (Adrenal insuficiency, Thyroid disorder), or possible
   central etiology such as lesion to hypothalamus.  Infection is
   currently the leading differential and needs to be treated broadly.
   - Obtain daily blood cultures
   - Follow up blood cultures
   - Monitor fever curve
   - Bedside ultrasound for ascites; paracentesis if positive to r/o SBP
   - Put in arterial line
   - Follow up final CT abdomen read
   - Broad spectum ABX
   - Early goal directed Tx: CVP 8-12, MAP > 65, ScvO2 > 70.
   - Warm with warming machine.
   .
   # Tachycardia: Patient with a history of A-Fib.  Does not seem to be on
   anything for rate control at baseline.  Currently  tachycardic is
   likely [**12-29**] SIRS/Sepsis physiology and compensatory increase in cardiac
   output.  Other potential causes are from the pressors and simply A-Fib
   with RVR.  Currently tachy 110-130.  Potentially could slow down to
   attempt to improve BP, however seems a little counterintuitive given
   already low BP and likely hypotension is not only from tachycardia.
   .
   # Chest pain/recent NSTEMI. Chest pain has resolved. Unclear whether
   related with underlying pneumonia. Troponin downtrending from prior;
   will trend to assess elevation.
   - Obtain second set cardiac enzymes
   - Obtain repeat CXR AM
   - Repeat ECG in am
   .
   # Rash. Appears to be chronic dermatitis; does not appear cellulitic.
   - Follow demarcated areas of erythema to assess worsening
   - Continue antibiotics as above
   .
   # End stage liver disease. Labeled crytogenic but patient with previous
   heavy alcohol use.
   - Continue lactulose prn
   .
   # CKD: Patient with baseline Cr noted to be 2.7.  Currently is lower.
   [**Month (only) 11**] reflect decrease muscle mass.  Alternatively may just be
   optimized.
   -Fluids per SIRS/sepsis protocol.
   -trend Cr.
   .
   # Pancytopenia. Currently resolved.  Thrombocytopenia likely [**12-29**] liver
   disease;
   - Check fibrinogen, FDP, LDH to r/o underlying coagulopathy
   .
   # Anemia: Unclear etiology at this time.  Patient is at baseline.  Will
   rule out DIC and keep hct > 25 (or >30 if ScvO2 is < 70).
   75 yr old male with MMP, recently admitted with hypotension and
   hypothermia. Dx paracentesis and LP both nondiagnostic, pancytopenic,
   tx with Vanc/Zosyn x 6 d, stress dose steroids, pressors. Sent to floor
   and developed a cough and rash. Eventually discharged to rehab.
   Yesterday had right upper c/p. Saw Dr [**Last Name (STitle) 1362**], had CXR and reportedly
   looked stable. During visit, BP [**9-/2150**], HR 88, T 95.1. This AM noted to
   be hypothermic and hypotensive. Sent to [**Hospital3 **] Hosp (BP 70/50)
   then transferred to [**Hospital1 1**].
   In ED T 96, HR 90, BP 124/70, RR 19, sat 100% on NRB, 97% on 2L.
   Mentating at all times. In the ED, BP dropped to 80. He received 2 L NS
   and levophed started in ED. At this time, has gotten total of 4 L IVF
   and remains hypotensive SBP ~85, MAP 60.
   Pt c/o non-productive raspy cough, prurtitic rash on torso, occas
   right-sided c/p, incr with cough. Denied diarrhea, dysuria, no
   vomitting.
   Medical problems reviewed: afib, CAD, PPM, cirrhosis with low grade
   esoph varices, CKD (creat ~2.7), angiodysp of GI tract, chronic anemia,
   TIA '[**87**], melanoma resected, basal cell ca, diverticulosis, Carotid art
   stenosis, BPH, gout.
   Ex-smoker, quit 35 yrs ago, sober from EtOH 35 yrs ago.
   Currently BP 85/59, HR 120s afib, sat 92% on 2 L. oriented x 3,
   wheezing anteriorly L>R, abd soft, NT, ND, + LE edema bilat. Oozing
   from right IJ CVL.
   Labs notable wbc 9.6, 92% polys, no bands, Hct 31, plat 88, creat 1.9,
   INR 1.3, ALT 59, CKMB neg, 7.32/44/63, lactate 1.3 - 1.1. u/a neg
   Imaging significant right-sided effusion which was present on previous
   admissions, left base atelect/small effusion, moderate ascites. CXR,
   previous CT chest, and today's CT abd/pelvis reviewed.
   IMPRESSION
   Complicated case. Currently with hypotension and hypothermia,
   intermittent right sided c/p.
   1. Hypotension / probable septic shock - infection likely given
   hypothermia, leftward shift. High likelihood of SBP +/- pna
   Might be aspirating. Would consider adrenal insufficiency especially as
   was on SD steroids last admission.
   - Check CVP and keep [**7-8**], c/w hydration, keep MAP>60
   - Add dexamethasone, [**Last Name (un) **] stim
   - Consider adding vasopressin, diagnostic para tonight, a-line
   2. Anemia - expect Hct to drop further with fluids and blood loss
   around CVL
   Cross match, keep Hct 25
   3.  Pleural effusion - likely tracking ascites, would consider tapping
   to r/o empyema
   4. Afib - tachycardic now, will watch for now, consider CCB or beta
   blocker for rate control once BP increases. Hypotension not clearly
   related to tachycardia.
   PPI, pneumoboots, full code. Other issues as discussed in Dr[**Name (NI) 10313**]
   note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2189-12-4**] 06:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-12-05 09:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2189-12-4**] 06:21 PM
 PARACENTESIS - At [**2189-12-4**] 11:00 PM
   - Episodes of hypotension through the night treated with dexamethasone,
   vasopressin, pressors and blood products
   - Poor UOP overnight
   - Paracentesis labs returned suggestive of SBP
   - s/p 6L NS
   - RIJ in ED with bleeding at insertion site; we placed additional
   sutures
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-12-5**] 04:00 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-5**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 103 (93 - 136) bpm
   BP: 95/54(59) {76/40(47) - 101/81(71)} mmHg
   RR: 22 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
    CO/CI (Fick): (6.5 L/min) / (3.1 L/min/m2)
   SvO2: 59%
   Total In:
                                                                  2,572 mL
                                                                  2,328 mL
   PO:
   TF:
   IVF:
                                                                  2,572 mL
                                                                  2,037 mL
   Blood products:
                                                                    292 mL
   Total out:
                                                                    300 mL
                                                                    135 mL
   Urine:
                                                                    300 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,272 mL
                                                                  2,193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General: Alert and oriented; able to relate history in detail
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple
   Lungs: Decreased breath sounds at the right base with mild to moderate
   crackles at bases; wheezes bilaterally
   CV: RRR, somewhat distant; JVD elevated
   Abdomen: Mildly protuberant, soft, non-tender
   Extremities: 3+ pitting edema
   Neuro: Wide based markedly abnormal and tentative gait
   Skin: Improved maculopapular rash over back/trunk/flank/lower abdomen
   Labs / Radiology
   33 K/uL
   8.6 g/dL
   67 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   41 mg/dL
   112 mEq/L
   142 mEq/L
   26.9 %
   23.5 K/uL
        [image002.jpg]
                             [**2189-12-5**]  12:54 AM
                             [**2189-12-5**]  02:43 AM
   WBC
   20.5
   23.5
   Hct
   27.2
   26.9
   Plt
   28
   33
   Cr
   1.9
   Glucose
   67
   Other labs: PT / PTT / INR:16.7/49.1/1.5, ALT / AST:58/48, Alk Phos / T
   Bili:210/1.8, Amylase / Lipase:/21, Lactic Acid:1.1 mmol/L, Albumin:2.5
   g/dL, LDH:356 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Paracentesis results
   [**12-5**], [**12-4**] CXR
 Final read pending;
   [**12-4**] CT abdomen/pelvis
 Final read pending; cirrhosis with moderate
   ascites
   Assessment and Plan
   75 yo M hx CAD s/p recent NSTEMI, a. fib not on Coumadin, and recent
   hospitalization for SIRS now with pneumonia on CXR and hypotension.
   .
   # Hypotension/tachycardia/hypothermia: Patient hypotensive,
   tachycardic, hypothermic, concerning for signs of active infection.
   Currently calling this SIRS and possible seppsis.  Source likely to be
   pulmonary, although cannot exclude GI (SBP possible given peritoneal
   fluid results), GU (UA negative in ED), skin (patient's rash unlikely
   cellulitis), c diff.  Other potential etiologies would be
   endocrinopathy (adrenal insuficiency, thyroid disorder), or possible
   central etiology such as lesion to hypothalamus.  Infection is
   currently the leading differential and needs to be treated broadly.
   - Continue vancomycin, zosyn
   - Consult infectious disease regarding other antibiotic choices to use
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Continue to obtain daily blood cultures
   - Follow up cultures
   - Monitor fever curve
   - Attempt to place arterial line
   - Follow up final CT abdomen read
   - Early goal directed treatment: CVP 8-12, MAP > 65, ScvO2 > 70.
   - Continue bear hugger.
   .
   # SBP. Likely given peritoneal fluid results. Questionable whether
   would present in the manner that it has in this patient; likely to be
   another source of infection.
   - Continue vancomycin, zosyn
   - Consult infectious disease regarding other antibiotic choices to use
   - Follow up cultures
   .
   # Right pleural effusion. Cannot rule out right lower quadrant
   pneumonia, likely nosocomial (MRSA/pseudomonal). Likely etiology for
   patient's shortness of breath, productive cough. Also consider CHF,
   aspiration;
   - Obtain repeat CXR AM
   - Follow up final CXR read
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Start nebulizer treatment
   .
   # Tachycardia: Patient with a history of A-Fib.  Does not seem to be on
   anything for rate control at baseline.  Currently tachycardia is likely
   [**12-29**] SIRS/Sepsis physiology and compensatory increase in cardiac
   output.  Other potential causes are from the pressors and simply A-Fib
   with RVR.  Currently tachy to 120s.  Potentially could slow down to
   attempt to improve BP, however seems a little counterintuitive given
   already low BP and likely hypotension is not only from tachycardia.
   - Continue to monitor
   .
   # Chest pain/recent NSTEMI. Chest pain has resolved. Unclear whether
   related with underlying pneumonia. Troponin downtrending from prior;
   will trend to assess elevation.
   - Obtain second set cardiac enzymes
   - Obtain repeat CXR AM
   - Repeat ECG in am
   .
   # Rash. Appears to be chronic dermatitis and improved in appearnace;
   does not appear cellulitic.
   - Follow demarcated areas of erythema to assess worsening
   - Continue antibiotics as above
   .
   # End stage liver disease. Labeled crytogenic but patient with previous
   heavy alcohol use.
   - Continue lactulose prn
   .
   # CKD: Patient with baseline Cr noted to be 2.7.  Currently is lower.
   [**Month (only) 11**] reflect decrease muscle mass.  Alternatively may just be
   optimized.
   - Continue fluids per SIRS/sepsis protocol.
   - Trend Cr.
   .
   # Pancytopenia. Currently resolved.  Thrombocytopenia likely [**12-29**] liver
   disease;
   - Check fibrinogen, FDP, LDH to r/o underlying coagulopathy
   .
   # Anemia: Unclear etiology at this time.  Patient is at baseline.  Will
   rule out DIC and keep hct > 25 (or >30 if ScvO2 is < 70).
   .
   # FEN: IVF bolus as per above, replete electrolytes, regular diet
   # Prophylaxis: Pneumoboots, no subcutaneous heparin at this time given
   concern for coagulopathy
   # Access: PIV, RIJ
   # Communication: Patient
   # Code:  Full (discussed with patient and patient's family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2189-12-4**] 06:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-12-06 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fever, Rigors, Hypotension
   24 Hour Events:
   - EKG: Stable.
   - ID: would recommend vanc, zosyn or cefepime.
   - PM Labs: creatinine 2.0, increased anion gap 13. Platlets 30. FDP
   10-40 Fibrinogen.
   - Family Meeting: [**Doctor Last Name 1362**] spoke with patient and family. At this time
   appears to want treatment with the idea that would not be continued
   long term on ventilator, etc.
   - Cardiac Enzymes: CK Flat.
   - FU [**Last Name (un) 1398**] Stim: Not ordered so will be ordered for the AM [**12-7**].
   - HCT 26.4 ->30.4
   - A Line Placed.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-12-5**] 04:00 AM
   Vancomycin - [**2189-12-5**] 08:00 AM
   Cefipime - [**2189-12-5**] 05:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.6
C (96.1
   HR: 73 (73 - 120) bpm
   BP: 128/62(87) {96/46(66) - 135/74(95)} mmHg
   RR: 22 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
    CVP: 5 (5 - 10)mmHg
   Total In:
                                                                  3,542 mL
                                                                    260 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  2,927 mL
                                                                    260 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    365 mL
                                                                     85 mL
   Urine:
                                                                    365 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,177 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General: Alert and oriented; able to relate history in detail
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple
   Lungs: Decreased breath sounds at the right base with mild to moderate
   crackles at bases; wheezes bilaterally
   CV: RRR, somewhat distant; JVD elevated
   Abdomen: Mildly protuberant, soft, non-tender
   Extremities: 3+ pitting edema
   Neuro: Wide based markedly abnormal and tentative gait
   Skin: Improved maculopapular rash over back/trunk/flank/lower abdomen
   Labs / Radiology
   48 K/uL
   9.2 g/dL
   193 mg/dL
   2.2 mg/dL
   17 mEq/L
   4.5 mEq/L
   48 mg/dL
   109 mEq/L
   137 mEq/L
   28.5 %
   16.7 K/uL
        [image002.jpg]
                             [**2189-12-5**]  12:54 AM
                             [**2189-12-5**]  02:43 AM
                             [**2189-12-5**]  11:00 AM
                             [**2189-12-5**]  05:32 PM
                             [**2189-12-6**]  04:53 AM
   WBC
   20.5
   23.5
   26.4
   21.4
   16.7
   Hct
   27.2
   26.9
   30.4
   29.0
   28.5
   Plt
   28
   33
   30
   38
   48
   Cr
   1.9
   2.0
   2.2
   2.2
   TropT
   0.14
   Glucose
   67
   131
   230
   193
   Other labs: PT / PTT / INR:16.9/47.0/1.5, CK / CKMB /
   Troponin-T:38/8/0.14, ALT / AST:61/32, Alk Phos / T Bili:189/2.1,
   Amylase / Lipase:/21, Fibrinogen:359 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.5 g/dL, LDH:391 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Imaging:  LENIs: Negative for DVT.
   Microbiology: Blood Cultures Pending
   Peritoneal Fluid - Pending
   C.Diff - Negative
   Assessment and Plan
   75 yo M hx CAD s/p recent NSTEMI, a. fib not on Coumadin, and recent
   hospitalization for SIRS now with pneumonia on CXR and hypotension.
   .
   # Hypotension/tachycardia/hypothermia: Patient hypotensive,
   tachycardic, hypothermic, concerning for signs of active infection.
   Currently calling this SIRS and possible seppsis.  Source likely to be
   pulmonary, although cannot exclude GI (SBP possible given peritoneal
   fluid results), GU (UA negative in ED), skin (patient's rash unlikely
   cellulitis), c diff.  Other potential etiologies would be
   endocrinopathy (adrenal insuficiency, thyroid disorder), or possible
   central etiology such as lesion to hypothalamus.  Infection is
   currently the leading differential and needs to be treated broadly.
   - Continue vancomycin, zosyn
   - Consult infectious disease regarding other antibiotic choices to use
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Continue to obtain daily blood cultures
   - Follow up cultures
   - Monitor fever curve
   - Attempt to place arterial line
   - Follow up final CT abdomen read
   - Early goal directed treatment: CVP 8-12, MAP > 65, ScvO2 > 70.
   - Continue bear hugger.
   .
   # SBP. Likely given peritoneal fluid results. Questionable whether
   would present in the manner that it has in this patient; likely to be
   another source of infection.
   - Continue vancomycin, zosyn
   - Consult infectious disease regarding other antibiotic choices to use
   - Follow up cultures
   .
   # Right pleural effusion. Cannot rule out right lower quadrant
   pneumonia, likely nosocomial (MRSA/pseudomonal). Likely etiology for
   patient's shortness of breath, productive cough. Also consider CHF,
   aspiration;
   - Obtain repeat CXR AM
   - Follow up final CXR read
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Start nebulizer treatment
   .
   # Tachycardia: Patient with a history of A-Fib.  Does not seem to be on
   anything for rate control at baseline.  Currently tachycardia is likely
   [**12-29**] SIRS/Sepsis physiology and compensatory increase in cardiac
   output.  Other potential causes are from the pressors and simply A-Fib
   with RVR.  Currently tachy to 120s.  Potentially could slow down to
   attempt to improve BP, however seems a little counterintuitive given
   already low BP and likely hypotension is not only from tachycardia.
   - Continue to monitor
   .
   # Chest pain/recent NSTEMI. Chest pain has resolved. Unclear whether
   related with underlying pneumonia. Troponin downtrending from prior;
   will trend to assess elevation.
   - Obtain second set cardiac enzymes
   - Obtain repeat CXR AM
   - Repeat ECG in am
   .
   # Rash. Appears to be chronic dermatitis and improved in appearnace;
   does not appear cellulitic.
   - Follow demarcated areas of erythema to assess worsening
   - Continue antibiotics as above
   .
   # End stage liver disease. Labeled crytogenic but patient with previous
   heavy alcohol use.
   - Continue lactulose prn
   .
   # CKD: Patient with baseline Cr noted to be 2.7.  Currently is lower.
   [**Month (only) 11**] reflect decrease muscle mass.  Alternatively may just be
   optimized.
   - Continue fluids per SIRS/sepsis protocol.
   - Trend Cr.
   .
   # Pancytopenia. Currently resolved.  Thrombocytopenia likely [**12-29**] liver
   disease;
   - Check fibrinogen, FDP, LDH to r/o underlying coagulopathy
   .
   # Anemia: Unclear etiology at this time.  Patient is at baseline.  Will
   rule out DIC and keep hct > 25 (or >30 if ScvO2 is < 70).
   .
   # FEN: IVF bolus as per above, replete electrolytes, regular diet
   # Prophylaxis: Pneumoboots, no subcutaneous heparin at this time given
   concern for coagulopathy
   # Access: PIV, RIJ
   # Communication: Patient
   # Code:  Full (discussed with patient and patient's family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2189-12-4**] 06:21 PM
   Arterial Line - [**2189-12-5**] 03:00 PM
   Prophylaxis:
   DVT: Pneumoboots,
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-12-07 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hematocrit fell prior to albumin being given, repeated: 28.5 -> 25.3
   -> 23.8, so given one unit of red cells
   - Given total of 87.5 g albumin
   - Guaiac positive stool - liquid very dark and likely 500 ccs or so.
   Followed by better formed stool that was brown.
   - [**Last Name (un) 1398**] stim: Baseline 5.4 then 13.5 30 minutes post and 15.7 two hours
   later
   - TSH: elevated (but less than previously) at 6.1. Restarted synthroid
   at 25 mcg.
   - Lactate elevated to 2.2
   - 11:47 a.m: pH 7.34 pCO2 31 pO2 117 HCO3 17 BaseXS -7
   - Hemodynamically stable through the day with SBP ~ 100 and rate ~90
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-12-5**] 04:00 AM
   Vancomycin - [**2189-12-6**] 08:58 AM
   Cefipime - [**2189-12-6**] 04:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-7**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 90 (70 - 120) bpm
   BP: 84/53(66) {72/43(55) - 129/69(93)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
    CVP: 177 (6 - 177)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  1,397 mL
                                                                    312 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                    684 mL
                                                                    296 mL
   Blood products:
                                                                    233 mL
                                                                     17 mL
   Total out:
                                                                    515 mL
                                                                    120 mL
   Urine:
                                                                    515 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    882 mL
                                                                    192 mL
   Respiratory support
   SpO2: 90%
   ABG: 7.34/31/117/18/-7
   Physical Examination
   General: Somewhat more sedated this AM
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, right IJ in place
   Lungs: Anterior lung fields with rhonchi bilaterally
   CV: regular rate, irregular, somewhat distant; JVD elevated
   Abdomen: Mildly protuberant, soft, non-tender
   Extremities: 2+ pitting edema, pulse dopplerable bilaterally, cool,
   3sec cap refill bilaterally
   Labs / Radiology
   27 K/uL
   7.5 g/dL
   151 mg/dL
   2.3 mg/dL
   18 mEq/L
   4.5 mEq/L
   54 mg/dL
   110 mEq/L
   139 mEq/L
   23.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2189-12-5**]  12:54 AM
                             [**2189-12-5**]  02:43 AM
                             [**2189-12-5**]  11:00 AM
                             [**2189-12-5**]  05:32 PM
                             [**2189-12-6**]  04:53 AM
                             [**2189-12-6**]  11:47 AM
                             [**2189-12-6**]  03:12 PM
                             [**2189-12-6**]  06:15 PM
                             [**2189-12-7**]  05:30 AM
   WBC
   20.5
   23.5
   26.4
   21.4
   16.7
   9.5
   8.0
   6.7
   Hct
   27.2
   26.9
   30.4
   29.0
   28.5
   25.3
   23.8
   23.5
   Plt
   28
   33
   30
   38
   48
   30
   28
   27
   Cr
   1.9
   2.0
   2.2
   2.2
   2.3
   TropT
   0.14
   TCO2
   17
   Glucose
   67
   131
   230
   193
   151
   Other labs: PT / PTT / INR:15.1/47.1/1.3, CK / CKMB /
   Troponin-T:38/8/0.14, ALT / AST:40/23, Alk Phos / T Bili:147/1.8,
   Amylase / Lipase:/21, Fibrinogen:359 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:3.6 g/dL, LDH:248 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.3
   mg/dL
   [**12-6**] CXR - Persistent bilateral pleural effusions. Underlying
   atelectasis and/or consolidation, particularly on the right, cannot be
   excluded.
   [**12-6**] Blood culture
 Pending
   [**12-5**] Blood culture x2
 Pending
   [**12-5**] Peritoneal fluid
 Polymorphonuclear leukocytes, pending
   Assessment and Plan
   75 yo M hx CAD s/p recent NSTEMI, a. fib not on Coumadin, and recent
   hospitalization for SIRS now with pneumonia on CXR and hypotension.
   .
   # Hypotension/tachycardia/hypothermia: Most likely related to sepsis
   secondary to pulmonary infection. However source is not absolutely
   clear. Pt improving on vancomycin, zosyn, however still requiring
   pressor support. Other considerations include hypothyroidism and
   Adrenal Insufficiency.
   - Continue vancomycin, Change to Cefepime zosyn
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Continue to obtain daily blood cultures
   - Follow up cultures
   - Monitor fever curve
   - Follow up final CT abdomen read
   - Early goal directed treatment: CVP 8-12, MAP > 65, ScvO2 > 70.
   - Continue bear hugger prn
   - Wean levophed given diminished lower extremity pulses.
   .
   # Cool Lower Extremities: Dopplerable pulses bilaterally
   - Wean levophed as tolerated
   - Monitor pulses Q1hour
   - Vascular if unable to Doppler pulses
   .
   # SBP. Likely given peritoneal fluid results. Questionable whether
   would present in the manner that it has in this patient; likely to be
   another source of infection.
   - Albumin today per SBP protocol.
   - Cefepime will cover.
   - Follow up cultures
   .
   # Right pleural effusion. Cannot rule out right lower quadrant
   pneumonia, likely nosocomial (MRSA/pseudomonal). Likely etiology for
   patient's shortness of breath, productive cough. Also consider CHF,
   hydrothorax secondary to ascites/liver disease.
   - Obtain repeat CXR AM
   - Follow up final CXR read
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Start nebulizer treatment
   .
   # Tachycardia: This AM rate controlled in 70s. Will wean pressors as
   tolerated.
   - Continue to monitor
   - FU EKG
   .
   # Chest pain/recent NSTEMI. Chest pain has resolved. Enzymes flat. NO
   EKG Changes.
   - Obtain repeat CXR AM
   - Repeat ECG in am
   .
   # End stage liver disease. Labeled crytogenic but patient with previous
   heavy alcohol use.
   - Continue lactulose prn
   .
   # CKD: Patient with baseline Cr noted to be 2.7.  Currently is lower.
   [**Month (only) 11**] reflect decrease muscle mass.  Alternatively may just be
   optimized.
   - Continue fluids per SIRS/sepsis protocol.
   - Trend Cr.
   - Regular Diet.
   .
   # Pancytopenia. Currently resolved.  Thrombocytopenia likely [**12-29**] liver
   disease. Platlets improved this morning. HIV negative.
   - Check fibrinogen, FDP, LDH to r/o underlying coagulopathy
   .
   # Anemia: Unclear etiology at this time.  Patient is at baseline.  Will
   rule out DIC and keep hct > 25 (or >30 if ScvO2 is < 70).
   .
   # FEN: IVF bolus as per above, replete electrolytes, regular diet
   # Prophylaxis: Pneumoboots, no subcutaneous heparin at this time given
   concern for coagulopathy
   # Access: PIV, RIJ
   # Communication: Patient
   # Code:  Full (discussed with patient and patient's family)
   # Disposition: ICU pending clinical improvement
   ID rec
d switch to cefepime from zosyn given prior abios.
   L radial A-line placed under ultrasound guidance.
   Complex 75 y/o with CAD CHF (nl EF), cirrhosis, CKD, Afib.
   Hypotension, septic shock: Paracentesis c/w SBP though other source is
   possible (eg pna), and ?small bowel thickening on CT.  Covering with
   Vanc / Cefepime while awaiting cultures.  CVP intermittently low, will
   fluid challenge with IVF / albumin as needed
 should be able to wean
   pressors given MAPs now > 80, follow up lactate.  Now again on steroids
   though seems doubtful that he was truly ever adrenally insufficient
   consider rapid wean.
   Decreased LE pulse: follow dopplers
 while vasopressors can
   contribute, has CAD and concern re: vascular insufficiency.
   Dyspnea, hypoxemia: Acidosis, effusion, ?pneumonia.  Effusion large and
   chronic, likely this is hepatic hydrothorax though has not been
   sampled; defer for now and hopefully readdress once coagulopathy and
   thrombocytopenia improve.
   Remainder of plan as above.
   Pt critically ill.  CC time 40 minutes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2189-12-4**] 06:21 PM
   Arterial Line - [**2189-12-5**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-12-08 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fever, Hypotension
   24 Hour Events:
   - Started IV PPI [**Hospital1 **] and flagyl per morning roudns
   - Repeated albumin 1g/kg (gave a total of 87.5g) for treatment of SBP
   - Started rifaximin 200mg tid for continued mild asterixis on exam
   while on lactulose
   - Hct stable at 23
   - Started midodrine without much improvement to BPs
   - Faxed request for medical records from [**Hospital3 91**] ([**Telephone/Fax (1) 10366**]);
   specifically requested EGD, colonoscopy
   - Echo showed suboptimal image quality. Moderate pulmonary artery
   systolic hypertension. Mildly dilated right ventricular cavity with low
   normal systolic function. Mild symmetric left ventricular hypertrophy
   with preserved global and regional systolic function. Trivial
   pericardial effusion. Compared with the prior study (images reviewed)
   of [**2189-11-25**], the right ventricular cavity is now slightly dilated with
   low normal systolic function and the estimated pulmonary artery
   systolic pressure is higher. This constellation of findings is
   suggestive of a primary pulmonary process (e.g., pulmonary embolism,
   etc.)
   - Patient with decreased urine output during the night; inserted triple
   lumen urinary catheter and flushed out large number of clots; UOP
   improved
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-7**] 08:30 AM
   Cefipime - [**2189-12-7**] 04:00 PM
   Metronidazole - [**2189-12-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2189-12-8**] 03:31 AM
   Furosemide (Lasix) - [**2189-12-8**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-8**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 120 (79 - 142) bpm
   BP: 103/65(81) {76/44(57) - 127/82(101)} mmHg
   RR: 25 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 215.3 kg (admission): 88.6 kg
   Height: 73 Inch
    CVP: 28 (20 - 36)mmHg
   Total In:
                                                                  2,458 mL
                                                                    175 mL
   PO:
   TF:
   IVF:
                                                                  1,622 mL
                                                                    175 mL
   Blood products:
                                                                    836 mL
   Total out:
                                                                    420 mL
                                                                    550 mL
   Urine:
                                                                    420 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,038 mL
                                                                   -375 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.28/38/143/16/-7
   PaO2 / FiO2: 286
   Physical Examination
   General: Somewhat more sedated this AM
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, right IJ in place
   Lungs: Anterior lung fields with rhonchi bilaterally
   CV: regular rate, irregular, somewhat distant; JVD elevated
   Abdomen: Mildly protuberant, soft, non-tender
   Extremities: 2+ pitting edema, pulse dopplerable bilaterally, cool,
   3sec cap refill bilaterally
   Labs / Radiology
   43 K/uL
   8.5 g/dL
   130 mg/dL
   2.5 mg/dL
   16 mEq/L
   4.6 mEq/L
   62 mg/dL
   110 mEq/L
   139 mEq/L
   25.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2189-12-6**]  03:12 PM
                             [**2189-12-6**]  06:15 PM
                             [**2189-12-7**]  05:30 AM
                             [**2189-12-7**]  10:15 AM
                             [**2189-12-7**]  05:53 PM
                             [**2189-12-7**]  07:42 PM
                             [**2189-12-7**]  11:23 PM
                             [**2189-12-8**]  03:20 AM
                             [**2189-12-8**]  03:23 AM
                             [**2189-12-8**]  05:46 AM
   WBC
   9.5
   8.0
   6.7
   8.1
   Hct
   25.3
   23.8
   23.5
   23.3
   27.0
   25.3
   Plt
   30
   28
   27
   35
   39
   43
   Cr
   2.3
   2.3
   2.5
   TCO2
   17
   18
   19
   Glucose
   151
   151
   130
   Other labs: PT / PTT / INR:15.6/45.9/1.4, CK / CKMB /
   Troponin-T:38/8/0.14, ALT / AST:45/43, Alk Phos / T Bili:162/2.3,
   Amylase / Lipase:/21, Fibrinogen:359 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.6 g/dL, LDH:224 IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR: Pending
   Microbiology: Blood: Pending
   Assessment and Plan
   75 yo M hx CAD s/p recent NSTEMI, a. fib not on Coumadin, and recent
   hospitalization for SIRS now with pneumonia on CXR and hypotension.
   .
   # Hypotension/tachycardia/hypothermia: Most likely related to sepsis
   secondary to pulmonary infection. However source is not absolutely
   clear. Patient improving on vancomycin, zosyn, however still requiring
   pressor support. Other considerations include hypothyroidism and
   adrenal insufficiency.
   - Continue vancomycin, change zosyn to cefepime as to change antibiotic
   regimen that patient was last on
   - Add flagyl for added coverage
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Continue to obtain daily blood cultures
   - Follow up cultures
   - Monitor fever curve
   - Early goal directed treatment: CVP 8-12, MAP > 65, ScvO2 > 70.
   - Continue bear hugger prn
   - Defer on endocrinology consult at this time
   - Obtain echo to assess pericardial effusion
   .
   # Cool lower extremities: Pulses dopplerable bilaterally.
   - Levophed stopped
   - Monitor pulses q1-2hour
   - Vascular if unable to doppler pulses
   .
   # SBP. Likely given peritoneal fluid results. Questionable whether
   would present in the manner that it has in this patient; likely to be
   another source of infection.
   - Re-tap today for fungal culture
   - Continue cefepime
   - Follow up cultures
   .
   # Right pleural effusion. Cannot rule out right lower quadrant
   pneumonia, likely nosocomial (MRSA/pseudomonal). Likely etiology for
   patient's shortness of breath, productive cough. Also consider CHF,
   hydrothorax secondary to ascites/liver disease.
   - Obtain repeat CXR AM
   - Follow up final CXR read
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Start nebulizer treatment
   .
   # Anemia: Unclear etiology at this time.  Question [**12-29**] procedures. Will
   rule out DIC and keep hct > 25 (or >30 if ScvO2 is < 70).
   - Obtain q8 Hct
   - Start IV PPI [**Hospital1 **]
   - Continue to guaiac stool
   .
   # Chest pain/recent NSTEMI. Chest pain has resolved. Enzymes flat. No
   EKG Changes.
   - Continue to follow
   .
   # End stage liver disease. Labeled crytogenic but patient with previous
   heavy alcohol use.
   - Continue lactulose prn
   - Follow up GI recs
   .
   # CKD: Patient with baseline Cr noted to be 2.7.  Currently is lower.
   [**Month (only) 11**] reflect decrease muscle mass.  Alternatively may just be
   optimized.
   - Continue fluids per SIRS/sepsis protocol.
   - Trend Cr
   - Regular diet.
   .
   # Pancytopenia. Thrombocytopenia likely [**12-29**] liver disease. Platelets
   stable. HIV negative.
   - Check fibrinogen, FDP, LDH to r/o underlying coagulopathy
   .
   # FEN: IVF bolus as per above, replete electrolytes, regular diet
   # Prophylaxis: Pneumoboots, no subcutaneous heparin at this time given
   concern for coagulopathy
   # Access: PIV, RIJ
   # Communication: Patient
   # Code:  Full (discussed with patient and patient's family)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines:
   Presep Catheter - [**2189-12-4**] 06:21 PM
   Arterial Line - [**2189-12-5**] 03:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2189-12-09 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fever, Hypotension,
   24 Hour Events:
   - Diagnsotic Para: 4 WBCs (2Bands)
   - Started treating for HRS: Midodrine, Octreotide, holding on albumin
   for now given concern for volume overload.
   - HcT/PLT: 25.6/35 -> 25.4
   - Hepatology Recs: Increase Rifaximin to 400mg TID, Increase Lactulose
   to 45 mg QID, Trend HCT no EGD at this time, Doppler US portal vein.
   Treat for HRS (patient started on Octreotide, held on Albumin given
   volume status
   - Short run of non sustained VT 7 beats. LYtes -> stable
   - UA extremely active. Repeated after foley bag replaced. Repeat still
   with increased RBC, WBC, Few Bacteria. No Eos seen.
   - Agitated overnight. Worked with him to get him to take his lactulose.
   Gave Zyprexa sublingual 2.5mg.
   - Complained of bladder pain, gave Phenazopyridine and 0.5mg Morphine.
   - Report of another melanotic stool (guaiac positive)
   - FeUrea: 33%
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-7**] 08:30 AM
   Cefipime - [**2189-12-8**] 04:00 PM
   Metronidazole - [**2189-12-9**] 12:07 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-12-8**] 02:00 PM
   Morphine Sulfate - [**2189-12-9**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-9**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 125 (88 - 144) bpm
   BP: 100/61(67) {63/45(50) - 109/74(86)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 215.3 kg (admission): 88.6 kg
   Height: 73 Inch
    CVP: 27 (15 - 28)mmHg
   Total In:
                                                                    720 mL
                                                                    172 mL
   PO:
   TF:
   IVF:
                                                                    600 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                     55 mL
   Urine:
                                                                    985 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.26/38/92.[**Numeric Identifier 641**]/17/-9
   PaO2 / FiO2: 186
   Physical Examination
   General: No oriented, Encephalopathic, Patient with negative myoclonus
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, right IJ in place
   Lungs: Anterior lung fields with rhonchi bilaterally
   CV: regular rate, irregular, somewhat distant; JVD elevated
   Abdomen: Mildly protuberant, soft, non-tender
   Extremities: 2+ pitting edema, good capillary refill
   Foley: Red Urine
   Labs / Radiology
   47 K/uL
   8.8 g/dL
   131 mg/dL
   3.2 mg/dL
   17 mEq/L
   5.2 mEq/L
   74 mg/dL
   111 mEq/L
   142 mEq/L
   28.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2189-12-7**]  11:23 PM
                             [**2189-12-8**]  03:20 AM
                             [**2189-12-8**]  03:23 AM
                             [**2189-12-8**]  05:46 AM
                             [**2189-12-8**]  03:27 PM
                             [**2189-12-8**]  03:54 PM
                             [**2189-12-8**]  06:39 PM
                             [**2189-12-8**]  09:30 PM
                             [**2189-12-8**]  11:55 PM
                             [**2189-12-9**]  05:09 AM
   WBC
   8.1
   6.4
   Hct
   25.3
   25.6
   25.4
   28.0
   Plt
   43
   35
   36
   47
   Cr
   2.5
   2.9
   3.2
   TCO2
   17
   18
   19
   17
   18
   Glucose
   130
   134
   131
   Other labs: PT / PTT / INR:18.5/46.0/1.7, CK / CKMB /
   Troponin-T:38/8/0.14, ALT / AST:48/36, Alk Phos / T Bili:168/2.5,
   Amylase / Lipase:/21, Fibrinogen:359 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:3.6 g/dL, LDH:236 IU/L, Ca++:9.1 mg/dL, Mg++:2.7 mg/dL, PO4:6.1
   mg/dL
   Imaging: - ABD US with Doppler: Ascites, Normal Portal Vein Flow.
   Microbiology: Peritoneal: NGTD
   Blood: NGTD
   Urine: NGTD
   Assessment and Plan
   75 yo M hx CAD s/p recent NSTEMI, a. fib not on Coumadin, and recent
   hospitalization for SIRS now with pneumonia on CXR and hypotension. In
   the MICU patient with worsening renal failure, encephalopathy, without
   clear source of infection.
   .
   # Altered Mental Status: Multifactorial. Hepatic Encephalopathy. ICU
   Delirium. Infection.
   - Lactulose, may need NG tube however will discuss with family
   - Zyprexa prn agitation follow EKG for QT prolongation
   - Normalize sleep wake cycle.
   .
   # Hypotension/tachycardia/hypothermia: Most likely related to sepsis
   secondary to pulmonary infection. However source is not absolutely
   clear. Patient without meaningful improvement with vancomycin, zosyn,
   flagyl. Currently on Midodrine and Dex. Also may be related to adrenal
   Insufficiency with somewhat abnormal [**Last Name (un) **] stim.   ECHO with new right
   sided dilation, LENIs negative.
   - Continue vancomycin, cefipime, Flagyl
   - Vancomycin level today, dose by level
   - Continue Midodrine 5mg Daily
   - Continue Dex
   - Blood Cultures if  spikes
   - Follow up cultures
   - Monitor fever curve
   - Early goal directed treatment: CVP 8-12, MAP > 65, ScvO2 > 70.
   - Continue bear hugger prn
   - Defer on endocrinology consult at this time
   - FU LH, FSH, Alpha Subunit
   .
   # Acute on Chronic Kidney Disease: Crt to 3.2 without clear etiology.
   Urine with increase in whites/red blood cells.  Most likely related to
   relative hypotension. Started HRS therapy yesterday without
   improvement. Na does not fit with HRS.
   - Continue fluids per SIRS/sepsis protocol.
   - Continue Midodrine/Octreotide
   - Trend Cr
   - Possible renal consult pending family meeting.
   .
   # SBP. Repeat diagnostic para with4 white blood cells.
   - Re-tap today for reevaluation of SBP
   - Continue cefepime
   - Follow up cultures
   .
   # Right pleural effusion. Cannot rule out right lower quadrant
   pneumonia, likely nosocomial (MRSA/pseudomonal). Likely etiology for
   patient's shortness of breath, productive cough. Also consider CHF,
   hydrothorax secondary to ascites/liver disease.
   - Obtain repeat CXR AM Daily
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Start nebulizer treatment
   .
   # Anemia: Stable. However, guaiac positive dark stool yesterday.
   - Obtain q12 Hct
   - Continue IV PPI [**Hospital1 **]
   - Continue to guaiac stool
   .
   # Chest pain/recent NSTEMI. Chest pain has resolved. Enzymes flat. No
   EKG Changes.
   - Continue to follow
   .
   # End stage liver disease. Labeled crytogenic but patient with previous
   heavy alcohol use.
   - Continue lactulose, rifaximin prn
   - Follow up GI recs.
   # Pancytopenia. Thrombocytopenia likely [**12-29**] liver disease. Platelets
   stable. HIV negative. Should
   - Check fibrinogen, FDP, LDH to r/o underlying coagulopathy
   .
   # FEN: IVF bolus as per above, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots, no subcutaneous heparin at this time given
   concern for coagulopathy
   # Access: PIV, RIJ, DC a line today
   # Communication: Family
   # Code:  Full (discussed with patient and patient's family), Given
   worsening clinical status family meeting today to discuss goals of
   care.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO given AMS
   Lines:
   Presep Catheter - [**2189-12-4**] 06:21 PM
   Arterial Line - [**2189-12-5**] 03:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV PPI
   Communication:  Comments:
   Code status: Full code, Discuss with family today
   Disposition: Discuss goals of care with family today.

2189-12-10 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2189-12-9**] 09:03 AM
   - No agressive management
   - DNR/DNI
   - No NGT
   - Continue medical management
   - Therefore did not talk to Renal as previously planned and will not
   perform paracentesis
   - Family meeting today with Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1362**] and Dr. [**Last Name (STitle) 242**], [**First Name3 (LF) 24**] family
   (granddaughter [**Name (NI) 117**] and [**Name (NI) 1479**] (other HCP)) no further increase in
   treatment. To continue antibiotics, but not to start pressors.
   - Blood pressure starting to fall intermittently in the evening, with
   MAP 55-60. No treatment.
   - Whole family visited and received Sacrament of the Sick.
   - Hypothermic to 94 and 'bear hugger' used.
   - Family and both HCP's decided on CMO. Non-comfort directed
   medications stopped.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Shellfish Derived
   Unknown;
   Latex
   Unknown;
   Aranesp (Injection) (Darbepoetin Alfa In [**First Name9 (NamePattern2) 10061**] [**Male First Name (un) **])
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-9**] 08:00 AM
   Cefipime - [**2189-12-9**] 04:00 PM
   Metronidazole - [**2189-12-9**] 11:28 PM
   Infusions:
   Morphine Sulfate - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-12-9**] 02:00 PM
   Morphine Sulfate - [**2189-12-10**] 03:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-10**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 35.6
C (96
   Tcurrent: 34.4
C (94
   HR: 105 (87 - 133) bpm
   BP: 77/53(58) {66/38(49) - 132/90(97)} mmHg
   RR: 22 (9 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 215.3 kg (admission): 88.6 kg
   Height: 73 Inch
    CVP: 18 (17 - 18)mmHg
   Total In:
                                                                    900 mL
                                                                     57 mL
   PO:
   TF:
   IVF:
                                                                    900 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    550 mL
   Urine:
                                                                    405 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    495 mL
                                                                   -493 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General: Not oriented, encephalopathic. Patient with negative
   myoclonus.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, right IJ in place
   Lungs: Anterior lung fields with rhonchi bilaterally
   CV: Regular rate, somewhat distant; JVD elevated
   Abdomen: Mildly distended, soft, non-tender
   Extremities: 1+ pitting edema, good capillary refill
   Foley: Red urine
   Labs / Radiology
   43 K/uL
   9.3 g/dL
   143 mg/dL
   3.3 mg/dL
   17 mEq/L
   5.2 mEq/L
   77 mg/dL
   113 mEq/L
   143 mEq/L
   29.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2189-12-8**]  03:20 AM
                             [**2189-12-8**]  03:23 AM
                             [**2189-12-8**]  05:46 AM
                             [**2189-12-8**]  03:27 PM
                             [**2189-12-8**]  03:54 PM
                             [**2189-12-8**]  06:39 PM
                             [**2189-12-8**]  09:30 PM
                             [**2189-12-8**]  11:55 PM
                             [**2189-12-9**]  05:09 AM
                             [**2189-12-9**]  02:58 PM
   WBC
   8.1
   6.4
   6.4
   Hct
   25.3
   25.6
   25.4
   28.0
   29.4
   Plt
   43
   35
   36
   47
   43
   Cr
   2.5
   2.9
   3.2
   3.3
   TCO2
   18
   19
   17
   18
   Glucose
   130
   134
   131
   143
   Other labs: PT / PTT / INR:18.5/46.0/1.7, CK / CKMB /
   Troponin-T:38/8/0.14, ALT / AST:48/36, Alk Phos / T Bili:168/2.5,
   Amylase / Lipase:/21, Differential-Neuts:93.1 %, Lymph:4.7 %, Mono:2.2
   %, Eos:0.0 %, Fibrinogen:359 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.6
   g/dL, LDH:236 IU/L, Ca++:8.9 mg/dL, Mg++:2.8 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   75 yo M hx CAD s/p recent NSTEMI, a. fib not on Coumadin, and recent
   hospitalization for SIRS now with pneumonia on CXR and hypotension. In
   the MICU patient with worsening renal failure, encephalopathy, without
   clear source of infection.
   .
   # Altered Mental Status: Multifactorial. Hepatic Encephalopathy. ICU
   Delirium. Infection.
   - Lactulose, may need NG tube however will discuss with family
   - Zyprexa prn agitation follow EKG for QT prolongation
   - Normalize sleep wake cycle.
   .
   # Hypotension/tachycardia/hypothermia: Most likely related to sepsis
   secondary to pulmonary infection. However source is not absolutely
   clear. Patient without meaningful improvement with vancomycin, zosyn,
   flagyl. Currently on Midodrine and Dex. Also may be related to adrenal
   Insufficiency with somewhat abnormal [**Last Name (un) **] stim.   ECHO with new right
   sided dilation, LENIs negative.
   - Continue vancomycin, cefipime, Flagyl
   - Vancomycin level today, dose by level
   - Continue Midodrine 5mg Daily
   - Continue Dex
   - Blood Cultures if  spikes
   - Follow up cultures
   - Monitor fever curve
   - Early goal directed treatment: CVP 8-12, MAP > 65, ScvO2 > 70.
   - Continue bear hugger prn
   - Defer on endocrinology consult at this time
   - FU LH, FSH, Alpha Subunit
   .
   # Acute on Chronic Kidney Disease: Crt to 3.2 without clear etiology.
   Urine with increase in whites/red blood cells.  Most likely related to
   relative hypotension. Started HRS therapy yesterday without
   improvement. Na does not fit with HRS.
   - Continue fluids per SIRS/sepsis protocol.
   - Continue Midodrine/Octreotide
   - Trend Cr
   - Possible renal consult pending family meeting.
   .
   # SBP. Repeat diagnostic para with4 white blood cells.
   - Re-tap today for reevaluation of SBP
   - Continue cefepime
   - Follow up cultures
   .
   # Right pleural effusion. Cannot rule out right lower quadrant
   pneumonia, likely nosocomial (MRSA/pseudomonal). Likely etiology for
   patient's shortness of breath, productive cough. Also consider CHF,
   hydrothorax secondary to ascites/liver disease.
   - Obtain repeat CXR AM Daily
   - If clinically does not improve, consider consulting IP regarding
   tapping right pleural effusion
   - Start nebulizer treatment
   .
   # Anemia: Stable. However, guaiac positive dark stool yesterday.
   - Obtain q12 Hct
   - Continue IV PPI [**Hospital1 **]
   - Continue to guaiac stool
   .
   # Chest pain/recent NSTEMI. Chest pain has resolved. Enzymes flat. No
   EKG Changes.
   - Continue to follow
   .
   # End stage liver disease. Labeled crytogenic but patient with previous
   heavy alcohol use.
   - Continue lactulose, rifaximin prn
   - Follow up GI recs.
   # Pancytopenia. Thrombocytopenia likely [**12-29**] liver disease. Platelets
   stable. HIV negative. Should
   - Check fibrinogen, FDP, LDH to r/o underlying coagulopathy
   .
   # FEN: IVF bolus as per above, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots, no subcutaneous heparin at this time given
   concern for coagulopathy
   # Access: PIV, RIJ, DC a line today
   # Communication: Family
   # Code:  Full (discussed with patient and patient's family), Given
   worsening clinical status family meeting today to discuss goals of
   care.
   # Disposition: ICU pending clinical improvement
   Situation d/w family and PCP ([**First Name8 (NamePattern2) 851**] [**Doctor Last Name 1362**]) during bedside family
   meeting. Mr. [**Known lastname 10055**] is developing worsening renal and respiratory
   failue as outlined above in the setting of recent MI, ESLD, and likely
   infection. Aggressive support at this time would include intubation,
   NGT placement, likely hemodialysis and given his comorbidities, it is
   unlikely that these interventions would result in his leaving the ICU.
   Given his current condition, the team and family elected to focus on
   ongoing care focused primarily on comfort, including morphine for
   respiratory distress. We will continue antibiotics, but will not
   escalate to care requiring invasive procedures. Patient is DNR/I. All
   questions answered.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2189-12-4**] 06:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: